US08809371B2
Xantphos (5 mg) and Pd2(dba)3 (4 mg) were added to a mixture of tert-butyl cis-2-(6-amino-3-chloro-5-(2-phenylpropan-2-ylaminocarbonyl)pyridin-2-ylamino)cyclohexylcarbamate (20 mg), cesium carbonate (20 mg), 3-bromo-5-methylpyridine (9 mg), and 1,4-dioxane (2 ml) in a nitrogen atmosphere, followed by reflux for 3 hours in a nitrogen atmosphere. The reaction mixture was cooled to room temperature, and water and ethyl acetate were added. The organic layer was collected, washed with saturated saline, and dried over anhydrous sodium sulfate, and the solvent was distilled away under reduced pressure. The obtained residue was purified by silica gel chromatography (silica gel: Kanto Chemical Co., Inc., silica gel 60 (spherical shape), hexane•ethyl acetate=2:1 to 3:1), and a white solid of tert-butyl cis-2-(3-chloro-5-(2-phenylpropan-2-ylaminocarbonyl)-6-(5-methylpyridin-3-ylamino)pyridin-2-ylamino)cyclohexylcarbamate (13 mg) was thus obtained.

reactant | Xantphos | 5 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | tert-butyl cis-2-(6-amino-3-chloro-5-(2-phenylpropan-2-ylaminocarbonyl)pyridin-2-ylamino)cyclohexylcarbamate | 20 mg | NC1=C(C=C(C(=N1)N[C@@H]1[C@@H](CCCC1)NC(OC(C)(C)C)=O)Cl)C(=O)NC(C)(C)C1=CC=CC=C1 | C26H36ClN5O3
reactant | cesium carbonate | 20 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-bromo-5-methylpyridine | 9 mg | BrC=1C=NC=C(C1)C | C6H6BrN
catalyst | Pd2(dba)3 | 4 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | tert-butyl cis-2-(3-chloro-5-(2-phenylpropan-2-ylaminocarbonyl)-6-(5-methylpyridin-3-ylamino)pyridin-2-ylamino)cyclohexylcarbamate | 13 mg | ClC=1C(=NC(=C(C1)C(=O)NC(C)(C)C1=CC=CC=C1)NC=1C=NC=C(C1)C)N[C@@H]1[C@@H](CCCC1)NC(OC(C)(C)C)=O | C32H41ClN6O3
